US04125732
(p-Benzyloxyphenoxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}aceticacid
A mixture of 4.5 g of methyl(p-benzyloxyphenoxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}acetic acid, 5.5 g of potassium hydroxide, 3 ml of water and 150 ml of ethanol is refluxed for 4 hours. The mixture is acidified with concentrated HCl and extracted with chloroform. The extract is dried (MgSO4) and the solvent removed under reduced pressure. The oil is dissolved in benzene and the solution diluted with hexane. On standing, crystals separate and are filtered off and recrystallized from benzene-hexane to give 2.15 g of light tan crystals, mp 105°-109° C.

reactant | methyl(p-benzyloxyphenoxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}acetic acid | 4.5 g | CC(C(=O)O)(C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl)OC1=CC=C(C=C1)OCC1=CC=CC=C1 | C31H29ClO6
reactant | potassium hydroxide | 5.5 g | [OH-].[K+]
reactant | water | 3 ml | O | H2O
reactant | HCl | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | (p-Benzyloxyphenoxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}aceticacid | C(C1=CC=CC=C1)OC1=CC=C(OC(C(=O)O)C2=CC=C(C=C2)OCCCOC2=CC=C(C=C2)Cl)C=C1 | C30H27ClO6
